US07470680B2
tert-butyl 4-(1-(2,2-dimethoxyethyl)-3-(2-fluorophenyl)ureido)piperidine-1-carboxylate.
20% Phosgene in toluene (4.0 ml, 7.6 mmol) was diluted with ethyl acetate (20 ml, 205 mmol). 2-Fluoroaniline (0.600 ml, 6.2 mmol) was added to the mixture in one portion causing a white precipitate. Mixture was heated to reflux and held with stirring for 1 hour. Mixture was concentrated by roto-vap. Residue was dissolved in a small amount of dichloromethane. Resulting solution was added to a mixture of tert-butyl 4-(2,2-dimethoxyethylamino)piperidine-1-carboxylate (1.99 g, 6.9 mmol), dichloromethane (30 mL) and aqueous sodium bicarbonate (15 mL) while stirring vigorously. Reaction stirred at room temperature for 2 hours. Layers were separated and the aqueous phase was discarded. Material was washed twice with 1N hydrochloric acid and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as yellow oil in 53% yield. MS (M−H)−=424.1.

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 7.6 mmol, 4.0 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | 205 mmol, 20 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-Fluoroaniline | 6.2 mmol, 0.600 ml | FC1=C(N)C=CC=C1 | C6H6FN
reactant | tert-butyl 4-(2,2-dimethoxyethylamino)piperidine-1-carboxylate | 6.9 mmol, 1.99 g | COC(CNC1CCN(CC1)C(=O)OC(C)(C)C)OC | C14H28N2O4
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(1-(2,2-dimethoxyethyl)-3-(2-fluorophenyl)ureido)piperidine-1-carboxylate | 53% yield | COC(CN(C(=O)NC1=C(C=CC=C1)F)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C21H32FN3O5
